US08486979B2
5-(1H-indol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole
The title compound was prepared according to Method C using 1H-indole-5-carboxylic acid (Aldrich) and N′-hydroxynicotinimidamide (Tyger). 1H NMR (300 MHz, DMSO-d6) δ 6.69 (dt, J=2.3, 1.4 Hz, 1 H), 7.55 (t, J=2.7 Hz, 1 H), 7.62-7.70 (m, 2 H), 7.94 (dd, J=8.8, 1.7 Hz, 1 H), 8.46 (dt, J=8.1, 1.9 Hz, 1 H), 8.49-8.52 (m, 1 H), 8.81 (dd, J=4.7, 1.7 Hz, 1 H), 9.27 (dd, J=2.2, 0.8 Hz, 1 H) ppm; MS (DCI/NH3) m/z 263 (M+H)+.

reactant | 1H-indole-5-carboxylic acid | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | N′-hydroxynicotinimidamide | ON=C(C1=CN=CC=C1)N | C6H7N3O
reactant | NH3 | N | H3N
product | 5-(1H-indol-5-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole | N1C=CC2=CC(=CC=C12)C1=NC(=NO1)C=1C=NC=CC1 | C15H10N4O
